US04271138
Aluminum isopropoxide was prepared by refluxing 240 grams of isopropanol (four moles) under a nitrogen atmosphere then adding 27 grams (1 mole) of finely divided aluminum metal. The reaction proceeded with hydrogen evolution. The product was kept in a sealed flask for further testing.

reactant | isopropanol | four moles, 240 grams | C(C)(C)O | C3H8O
reactant | aluminum | [Al] | Al
reactant | hydrogen | [H][H] | H2
product | Aluminum isopropoxide | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C | InChI=1S/3C3H7O.Al/c3*1-3(2)4;/h3*3H,1-2H3;/q3*-1;+3
